US07713979B2
3′-Chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-3-carboxylic acid
Dissolve 3′-chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-3-carboxylic acid tert-butyl ester (Preparation 82) (506 mg, 1.08 mmol) in methylene chloride (5 mL). Add trifluoroacetic acid (5 mL) and stir at room temperature for 1 hour. Concentrate and redissolve in methylene chloride. Pour into 1N NaOH. Extract with ether. Acidify aqueous phase to pH 1. Extract with ether. Dry over sodium sulfate, filter and concentrate to yield 420 mg (94%) of the title compound as a white solid. Mass spectrum (apci) m/z=410.3

reactant | 3′-chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-3-carboxylic acid tert-butyl ester | 1.08 mmol, 506 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=CC(=C(C=C1)CC1C(N(CC1)C1CCCCC1)=O)Cl | C28H34ClNO3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3′-Chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-3-carboxylic acid | 420 mg, 94% | ClC=1C=C(C=CC1CC1C(N(CC1)C1CCCCC1)=O)C1=CC(=CC=C1)C(=O)O | C24H26ClNO3
